US04049640
To a filtered solution of 18.2 g of 5-nitroanthranilic acid in 300 ml of water and 22 ml of 5N sodium hydroxide is added 6.9 g of sodium nitrite. The resulting, slightly warm solution is poured over a rapidly stirred mixture of 34.0 ml of concentrated hydrochloric acid, 50 ml of acetic acid, 350 g of ice and 100 ml of water in a 2 liter beaker. This mixture is stirred in an ice bath during preparation of a solution of the sodium salt of 7-amino-1-naphthol-3-sulfonic acid (gamma acid). Thus, to a solution of 28 g of 85% pure 7-amino-1-naphthol-3-sulfonic acid in 50 ml of water and 24 ml of 5N sodium hydroxide is added 30 g of sodium acetate trihydrate in 30 ml of water. The resulting solution is added to the rapidly stirred diazonium salt solution and the mixture is stirred for approximately 5 minutes then is heated to 90° C. and allowed to stand overnight at room temperature. The mixture is filtered and the product is washed with a small amount of water. The product if then dissolved in 1300 ml of hot water and filtered through a steam heated, sintered funnel. To the filtrate maintained at 80° C. is added 140 g of sodium formate. The mixture is cooled to room temperature and is filtered. The product is washed with a 10% aqueous solution of sodium formate followed by ethanol to give 2-(2-amino-8-hydroxy-6-sulfo-1-naphthylazo)-5-nitrobenzoic acid, 6'-sodium salt.

reactant | 5-nitroanthranilic acid | 18.2 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)N | C7H6N2O4
reactant | sodium nitrite | 6.9 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 34.0 ml | Cl | ClH
reactant | sodium | [Na] | Na
reactant | 7-amino-1-naphthol-3-sulfonic acid | C1=CC(=CC2=C(C=C(C=C21)S(=O)(=O)O)O)N | C10H9NO4S
reactant | 7-amino-1-naphthol-3-sulfonic acid | 28 g | C1=CC(=CC2=C(C=C(C=C21)S(=O)(=O)O)O)N | C10H9NO4S
reactant | sodium acetate trihydrate | 30 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | sodium hydroxide | 5N, 22 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | sodium hydroxide | 5N, 24 ml | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(2-amino-8-hydroxy-6-sulfo-1-naphthylazo)-5-nitrobenzoic acid | NC1=C(C2=C(C=C(C=C2C=C1)S(=O)(=O)O)O)N=NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C17H12N4O8S
